US08106043B2
N-(4-(2-(Pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride:
To a solution of N-(4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide (424 mg, 1.138 mmol) in methanol (4 mL) was added hydrogen chloride (1 M in diethyl ether; 3.41 mL, 3.41 mmol). The resulting mixture was concentrated in vacuo, giving an orange solid (507 mg, 100%). 1H NMR (DMSO-d6) δ 11.60-11.40 (m, 2H), 9.75 (s, 1H), 8.78 (s, 1H), 8.22-8.10 (m, 2H), 7.36 (t, J=8.4 Hz, 1H), 7.15-7.05 (m, 2H), 6.64 (d, J=8.1 Hz, 1H), 3.80-3.71 (m, 2H), 3.70-3.61 (m, 2H), 3.58-3.45 (m, 2H), 3.43-3.30 (m, 2H), 3.16-3.07 (m, 2H), 3.06-2.95 (m, 2H), 2.05-1.92 (m, 2H), 1.90-1.79 (m, 2H); HRMS (C19H25N4S2, MH+, free base): calculated: 373.1515, observed: 373.1512. HPLC purity: 97% by area.

reactant | N-(4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide | 1.138 mmol, 424 mg | N1(CCCC1)CCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | C19H24N4S2
reactant | hydrogen chloride | 3.41 mmol, 1 M, 3.41 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | N-(4-(2-(Pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride | 507 mg, 100% | Cl.Cl.N1(CCCC1)CCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | InChI=1S/C19H24N4S2.2ClH/c20-19(18-4-3-12-24-18)21-15-5-6-17-16(14-15)23(11-13-25-17)10-9-22-7-1-2-8-22;;/h3-6,12,14H,1-2,7-11,13H2,(H2,20,21);2*1H
